US08440663B2
To a solution of 2-(diethylamino)ethanol (0.59 g, 5 mmol) in DMA (5 ml), sodium hydride (0.24 g, 10 mmol) was added in one portion. Fifteen minute later 2-bromo-4-nitroaniline (1.1 g, 5 mmol) was added and the content was stirred for 4 hr. Water (50 ml) was added to the reaction mixture followed by chloroform. The organic layer was separated, washed with saturated sodium bicarbonate follow by brine. The organic layer was dried over sodium sulfate and concentrated to oil. The oil was dissolved in methanol and saturated with HCl gas. The resulting solution was concentrated and diethyl ester was added. The resulting precipitate was washed with ether and dried to yield 0.8 g of 2-[(2-bromo-4-nitrophenyl)Oxy]-N,N-diethylethanamine hydrochloride as a solid. LCMS: m/z 318 (M+H)+.

reactant | 2-(diethylamino)ethanol | 5 mmol, 0.59 g | C(C)N(CCO)CC | C6H15NO
reactant | sodium hydride | 10 mmol, 0.24 g | [H-].[Na+]
reactant | 2-bromo-4-nitroaniline | 5 mmol, 1.1 g | BrC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | Water | 50 ml | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | 2-[(2-bromo-4-nitrophenyl)Oxy]-N,N-diethylethanamine hydrochloride | 0.8 g | Cl.BrC1=C(C=CC(=C1)[N+](=O)[O-])OCCN(CC)CC | InChI=1S/C12H17BrN2O3.ClH/c1-3-14(4-2)7-8-18-12-6-5-10(15(16)17)9-11(12)13;/h5-6,9H,3-4,7-8H2,1-2H3;1H
